US05316755
2,4,6-Triiodophenoxymethylcyclopentane
A stirred mixture of 36.2 g (0.08 mol) of 2,4,6-triiodophenol, 12.5 g (0.08 mol) of bromomethyleyelopentane [Noller and Adams, J. Org. Chem., 48, 1080-9 (1926)] and 10.6 g (0.08 mol) of milled anhydrous potassium carbonate in 100 ml dry dimethylformamide was heated at 100° C. under argon for 3.5 hrs. The mixture was cooled and concentrated in vacuo. The resulting residue was combined with 100 ml of ice-cold water and the oily product was extracted with ethyl acetate (3×100 ml). The combined ethyl acetate extracts were dried (MgSO4) and concentrated in vacuo to a dark oil. The oil was purified by chromatography (neutral alumina eluted by hexanes) to yield 24.0 g (57%) of the desired product as an oil. Bp: 220°-5° C./1 atm.

reactant | 2,4,6-triiodophenol | 0.08 mol, 36.2 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | potassium carbonate | 0.08 mol, 10.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,4,6-Triiodophenoxymethylcyclopentane | 24.0 g, 57% | IC1C(CC(C1)I)COC1=CC=CC=C1I | C12H13I3O
